US09303012B2
b) 4,4-Dimethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-(2,5-dioxo-pyrrolidin-1-yl) ester
A solution of 4,4-dimethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butylester (2.0 g, 8.22 mmol) in THF (20 mL) was cooled to 0° C. To the cold solution was added N-hydroxysuccinimide (1.2 g, 10.4 mmol) and diisopropylcarbodiimide (1.32 g, 10.4 mmol). Cooling was removed and the mixture stirred for 3 hours at room temperature. The urea was filtered off, washed with diethylether and the filtrates were concentrated. The residue was partitioned between ethyl acetate and cold water; organic phases were washed with cold brine, combined, dried with MgSO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (silica, heptane/ethyl acetate 9:1) to give the title compound (1.95 g, 70%) as colorless oil; MS (ESI) 341.1 [MH+].

reactant | 4,4-dimethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butylester | 8.22 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1C(CC(C1)(C)C)C(=O)O | C12H21NO4
reactant | N-hydroxysuccinimide | 10.4 mmol, 1.2 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | diisopropylcarbodiimide | 10.4 mmol, 1.32 g | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4,4-Dimethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-(2,5-dioxo-pyrrolidin-1-yl) ester | 1.95 g, 70% | O=C1N(C(CC1)=O)OC(=O)C1N(CC(C1)(C)C)C(=O)OC(C)(C)C | C16H24N2O6
